US07605171B2
4-(Trifluoromethyl)-6-(2,2,2-trifluoro-1-methylethoxy)nicotinic acid
To a solution of 180 mg (1.56 mmol) of 1,1,1-trifluoro-2-propanol in 10 mL of THF at −78° C. was added 1.56 mL (1.56 mmol) of sodium bis(trimethylsilyl)amide (1.0M in THF). After 30 min at −78° C., 250 mg (1.04 mmol) of methyl 6-chloro-4-(trifluoromethyl)nicotinate was added. The reaction mixture was gradually warmed up to rt and stirred over night. The mixture was diluted with 10 mL of EtOAc and washed with brine. The organic layer was dried over MgSO4 and concentrated. Purification using HPLC B gave 160 mg of the title compound: 1H NMR (500 MHz, CDCl3) δ 1.57 (d, J=6.6, 3H), 5.91 (m, 1H), 7.26 (s, 1H), 8.98 (s, 1H).

reactant | 1,1,1-trifluoro-2-propanol | 1.56 mmol, 180 mg | FC(C(C)O)(F)F | C3H5F3O
reactant | sodium bis(trimethylsilyl)amide | 1.56 mmol, 1.0M, 1.56 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | methyl 6-chloro-4-(trifluoromethyl)nicotinate | 1.04 mmol, 250 mg | ClC1=NC=C(C(=O)OC)C(=C1)C(F)(F)F | C8H5ClF3NO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | 4-(Trifluoromethyl)-6-(2,2,2-trifluoro-1-methylethoxy)nicotinic acid | 160 mg | FC(C1=CC(=NC=C1C(=O)O)OC(C(F)(F)F)C)(F)F | C10H7F6NO3
